US07781463B2
4-Benzyl-2-(Ethoxycarbonylmethyl)-1,2,4-thiadiazolidine-3,5-dione (Compound 33)
Reagents: Benzyl isothiocyanate (0.86 ml, 6.5 mmol), 35% HCl (3.1 ml), KMnO4 (0.5 g), Ethyl isocyanatoacetate (0.73 ml, 6.5 mmol).

reactant | Benzyl isothiocyanate | 6.5 mmol, 0.86 ml | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | HCl | 3.1 ml | Cl | ClH
reactant | KMnO4 | 0.5 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | Ethyl isocyanatoacetate | 6.5 mmol, 0.73 ml | N(=C=O)CC(=O)OCC | C5H7NO3
product | 4-Benzyl-2-(Ethoxycarbonylmethyl)-1,2,4-thiadiazolidine-3,5-dione | C(C1=CC=CC=C1)N1C(N(SC1=O)CC(=O)OCC)=O | C13H14N2O4S
